US09029399B2
Preparation of Intermediate 6-bromo-5-fluoro-3-methylbenzo[b]thiophene (I-29b)
Using analogous reagents and reaction conditions as described in Example 24 for the preparation of I-24b above, 1-(3-bromo-4-fluoro-phenylsulfanyl)-propan-2-one (I-29a: 2.1 g, 8.015 mmol) in toluene (10 mL) was cyclized with polyphosphoric acid (8 g) to yield crude product which was purified by column chromatography on silica gel (100% hexane) to afford 1.4 g of product (72% yield).

reactant | 1-(3-bromo-4-fluoro-phenylsulfanyl)-propan-2-one | 8.015 mmol, 2.1 g | BrC=1C=C(C=CC1F)SCC(C)=O | C9H8BrFOS
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-bromo-5-fluoro-3-methylbenzo[b]thiophene | 1.4 g, 72% yield | BrC=1C(=CC2=C(SC=C2C)C1)F | C9H6BrFS
